US07056559B2
Synthesis of Exemplified Compound 4A: 4,4′-bis[(2,4-dimethyl-3-ethyl-3-oxetanyl)methoxy]biphenyl
While stirring, 3-chloromethyl-3-ethyl-2,4-dimethyl-oxetane, 4,4′-bisphenol, and tetrabutylphosphonium bromide were heated to 80° C. An aqueous potassium hydroxide solution was dripped. The resulting mixture was heated to approximately 110° C. to start reflux. While refluxed, the reaction was allowed to proceed over 8 hours. After the reaction, the reaction mixture was cooled to room temperature. Subsequently, pure water was added and the resulting mixture was well stirred. Thereafter, deposits were collected by filtration. The resulting deposits were washed with water, followed by washing with methanol. Subsequently, drying was performed employing a vacuum dryer, whereby a targeted compound was obtained.

reactant | 3-chloromethyl-3-ethyl-2,4-dimethyl-oxetane | ClCC1(C(OC1C)C)CC | C8H15ClO
reactant | 4,4′-bisphenol | C1=CC(=CC=C1C2=CC=C(C=C2)O)O | C12H10O2
reactant | potassium hydroxide | [OH-].[K+]
catalyst | tetrabutylphosphonium bromide | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4,4′-bis[(2,4-dimethyl-3-ethyl-3-oxetanyl)methoxy]biphenyl | CC1OC(C1(CC)COC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1(C(OC1C)C)CC)C | C28H38O4
